US04689339
2-Bromo-1-(1,6-dimethyl-1H-inden-2-yl)ethanone
Bromine (2.80 g) is added to 1-(3,5-dimethyl-inden-2-yl)ethanone (3.00 g) in dry ether (30 ml), while keeping the temperature at +10° C. The mixture is extracted with water, several times with the diluted NaHCO3 solution, again with water, dried and evaporated under reduced pressure to afford the product (2.54 g, 59%).

reactant | Bromine | 2.80 g | BrBr | Br2
reactant | 1-(3,5-dimethyl-inden-2-yl)ethanone | 3.00 g | CC1=C(CC2=CC=C(C=C12)C)C(C)=O | C13H14O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 2-Bromo-1-(1,6-dimethyl-1H-inden-2-yl)ethanone | 2.54 g, 59% | BrCC(=O)C=1C(C2=CC(=CC=C2C1)C)C | C13H13BrO
